US08420828B2
1-(1H-Benzo[d]imidazol-6-yl)-5-(2,3-difluorophenyl)-4-(4-fluorophenyl)-3-methoxy-1H-pyrrol-2(5H)-one
The compound was synthesized starting from KOH (15 eq in water), diazald (8 eq), ethylene glycol/Et2O (1/4.2 v/v, 31 ml), 1-(1H-Benzo[d]imidazol-6-yl)-5-(2,3-difluorophenyl)-4-(4-fluorophenyl)-3-hydroxy-1H-pyrrol-2(5H)-one (0.5 g, 1.2 mmol, 1 eq) and MeOH (10 ml); yield: 0.160 g (60%); MS m/z: 436.1 [M+H]+; 1H-NMR: (400 MHz, DMSO-D6) δ: 10.5 (b, 1H), 7.88 (s, 1H), 7.72 (s, 1H), 7.59-7.56 (m, 1H), 7.26-7.00 (m, 4H), 6.91-6.86 (m, 3H), 6.38 (bs, 1H), 4.20 (s, 3H); HPLC (METHOD [A]): rt 15.20 min (97.35%)

reactant | KOH | 15 eq | [OH-].[K+]
reactant | diazald | 8 eq | CC1=CC=C(C=C1)S(=O)(=O)N(C)N=O | C8H10N2O3S
reactant | ethylene glycol Et2O | 31 ml | C(CO)O.CCOCC
reactant | 1-(1H-Benzo[d]imidazol-6-yl)-5-(2,3-difluorophenyl)-4-(4-fluorophenyl)-3-hydroxy-1H-pyrrol-2(5H)-one | 1.2 mmol, 0.5 g, 1 eq | N1C=NC2=C1C=C(C=C2)N2C(C(=C(C2C2=C(C(=CC=C2)F)F)C2=CC=C(C=C2)F)O)=O | C23H14F3N3O2
solvent | MeOH | 10 ml | CO | CH4O
product | 1-(1H-Benzo[d]imidazol-6-yl)-5-(2,3-difluorophenyl)-4-(4-fluorophenyl)-3-methoxy-1H-pyrrol-2(5H)-one | N1C=NC2=C1C=C(C=C2)N2C(C(=C(C2C2=C(C(=CC=C2)F)F)C2=CC=C(C=C2)F)OC)=O | C24H16F3N3O2
